US05770615
Following the procedure described in part E of Example 1 (R), (S)-α-[[[-((1,1-dimethylethyl)dimethylsilyl)oxy]-2-[4-hydroxy-3-[(methylsulfonyl)amino]phenyl]ethyl]amino]-4-methoxybenzeneacetic acid was condensed with 3-(2-oxazolyl)-4-chloroaniline to generate the title compound. The 3-(2-oxazolyl)-4-chloroaniline was prepared by treating commercial 4-chloro-3-nitrobenzoyl chloride sequentially with 1,2,3-triazole at 140° C. in sulfolane containing K2CO3 to generate 4-chloro-3-(2-oxazolyl)nitrobenzene which was reduced to the desired aniline with Na2S2O4 in THF/H2O at 90° C.

reactant | 4-chloro-3-nitrobenzoyl chloride | ClC1=C(C=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | 1,2,3-triazole | N1N=NC=C1 | C2H3N3
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-chloro-3-(2-oxazolyl)nitrobenzene | ClC1=C(C=C(C=C1)[N+](=O)[O-])C=1OC=CN1 | C9H5ClN2O3
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | THF H2O | C1CCOC1.O
product | 3-(2-oxazolyl)-4-chloroaniline | O1C(=NC=C1)C=1C=C(N)C=CC1Cl | C9H7ClN2O
